data/mechanisms/records/IMS9-EQ9.28a.json
{"mechanism_id": "IMS9-EQ9.28a", "species": [{"species_id": "hepten2one_molecular_ion", "mapped_smiles": "[CH3:1][C:2](=[O+:9])[CH2:3][CH2:4][C:5]([1H:10])=[C:6]([CH3:8])[CH2:7][1H:11]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "isomerized_molecular_ion", "mapped_smiles": "[CH3:1][C:2](=[O+:9])[CH2:3][CH2:4][C:5]([1H:10])([1H:11])[C:6]([CH3:8])=[CH2:7]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "acetone_enol_ion_mz58", "mapped_smiles": "[CH3:1][C:2](=[O+:9][1H:10])[CH2:3]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "isoprene_neutral", "mapped_smiles": "[CH2:4]=[C:5]([1H:11])[C:6]([CH3:8])=[CH2:7]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["hepten2one_molecular_ion"]}, {"state_id": "state_isomerized", "species_ids": ["isomerized_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["acetone_enol_ion_mz58", "isoprene_neutral"]}], "steps": [{"step_id": "step_double_bond_isomerization", "from_state": "state_precursor", "to_state": "state_isomerized", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [7, 11]}, "target": {"type": "bond", "atom_maps": [5, 11]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [5, 6]}, "target": {"type": "bond", "atom_maps": [6, 7]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_mclafferty_concerted", "from_state": "state_isomerized", "to_state": "state_products", "step_class": "mclafferty_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [9]}, "target": {"type": "bond", "atom_maps": [9, 10]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 10]}, "target": {"type": "bond", "atom_maps": [9, 10]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 10]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_isomerization", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_double_bond_isomerization", "support_type": "textbook_proposed", "locator": {"page": 251, "equation": "9.28", "figure": null, "panel": null, "section": "9.3 Aldehydes and ketones, 'Unsaturated ketones' (first, unlabelled arrow)"}, "confidence": 0.55, "curator_note": "Substrate as drawn, verified vertex by vertex on the native scan (pypdf page.images[0], 1760x2560, cropped at 4-9x): (CH3)2C=CH-CH2-CH2-C(=O)-CH3 with '+.' printed above the carbonyl oxygen and the VINYLIC hydrogen on C5 drawn EXPLICITLY. That compound is 6-methyl-5-hepten-2-one, named by the prose that introduces the equation (printed p250, PDF 261): 'However, in 6-methyl-5-hepten-2-one (Figure 9.10), isomerization of the double bond to a more favorable position is possible (Equation 9.28), and the C3H6O+. and C5H8+. rearrangement ions are observed in fair abundance, although [C3H6O+.] is less than that in the saturated derivative.' ATOM MAPS reuse the IUPAC numbering of that name -- 1 = the methyl on the carbonyl, 2 = C=O, 3 = alpha CH2, 4 = beta CH2, 5 = gamma CH (vinylic here), 6 = the trisubstituted sp2 carbon, 7/8 = its two methyls, 9 = O -- so the mapping is checkable against the page by eye. THIS STEP IS DRAWN AS A BARE, UNLABELLED REACTION ARROW: no reaction-type label (contrast the rH/rC/alpha labels used everywhere else in section 9.3) and ZERO curved arrows, so all of its electron moves are curator-supplied. What the two structures differ by was measured, not assumed: the product's double bond is TERMINAL (a horizontal '=' ending in free space at upper left, with a separate vertical methyl stroke on the same carbon), i.e. the 5,6-alkene has become the 6,7-alkene, which is the 'more favorable position' of the prose -- it converts the vinylic gamma-H into an ordinary sp3 gamma-H and so unblocks the McLafferty rearrangement that eq 9.28's second arrow then draws. Encoded as the minimal bookkeeping for that difference: a formal 1,3-hydrogen shift, H11 from C7 to C5 with the pi bond sliding C5=C6 -> C6=C7, written as two two-electron arrows. DISCLOSURE: this is bookkeeping, not a mechanistic claim. The page proposes no path for the isomerization, and a concerted suprafacial 1,3-H shift is not a respectable elementary step; the real ion-source route is probably stepwise (H migration through a distonic ion). The migrating H is taken from C7, but C7 and C8 are the two equivalent methyls of an isopropylidene group, so that choice is arbitrary and unobservable. Likewise H10 (the original vinylic H, kept on C5) and H11 (the arriving H) are equivalent on sp3 C5 afterwards; H10 is the one the next step's arrow tail sits on, so it is the one that transfers to oxygen. RENDERING NOTE: render_latex.py derives its arrow label from step_class, so the generated scheme stamps this arrow 'rH' while the book leaves it bare -- that label is the corpus's, not the page's. SCOPE OF EQUATION 9.28, recorded so the unencoded part of the page is not mistaken for a miss: the equation occupies two drawn rows. The TOP row is two STATIC structures with no reaction arrow, no products, no m/z and zero curved arrows -- CH2=CH-CH2-CH(CH3)-C(=O)-CH2CH3 (4-methyl-6-hepten-3-one, C8H14O, M 126.1045) and CH2=C(CH3)-CH2-C(=O)-CH3 (4-methyl-4-penten-2-one, C6H10O, M 98.0732), each drawn with its VINYLIC gamma-hydrogen spelled out. Both are read off the drawing and confirmed by name in the prose ('these OE+. peaks are of very low abundance in 4-methyl-6-hepten-3-one and 4-methyl-4-penten-2-one (Equation 9.28)'). They illustrate the blocked case and are NOT encoded, per the eq-9.5 precedent (a fragmentation drawn with zero arrows cannot be transcribed without inventing the electron flow). Only the BOTTOM row -- the 6-methyl-5-hepten-2-one route -- is a mechanism, and it is what these records hold. NB the corpus is still inconsistent about this class: IMS4-FIG4.4a/b were encoded from an arrow-free inset of exactly this kind."}, {"evidence_id": "evidence_step_mclafferty", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_mclafferty_concerted", "support_type": "textbook_proposed", "locator": {"page": 251, "equation": "9.28", "figure": null, "panel": null, "section": "9.3 Aldehydes and ketones, 'Unsaturated ketones' (second arrow)"}, "confidence": 0.8, "curator_note": "THE ONLY ARROWS ON THE PAGE, and eq 9.28 is the corpus's rare CONCERTED McLafferty: the isomerized ion carries EXACTLY FOUR curved arcs, all single-barbed fishhooks, counted and traced at 9x on the native 1760x2560 scan, and the next reaction arrow goes straight to the products -- the page never draws the distonic rH intermediate that IMS9-EQ9.25b and IMS9-EQ9.26d (and the MØD rule pair) pass through. The four arcs, by measured endpoint: <1> tail at the '+.' on the oxygen, head on the explicitly drawn gamma-H (the O odd electron into the forming O-H bond); <2> tail on the C5-H bond, head pointing up-right at the oxygen (one C-H electron into that same forming O-H bond); <3> tail also at the C5-H bond, head on the C4-C5 bond (the other C-H electron into the forming pi bond); <4> tail on the C3-C4 bond, head on the C4-C5 bond just below arc <3>'s head (the sigma electron completing that pi bond). Arcs <3> and <4> are the two stacked barbs that both point at the vertical C4-C5 stroke. A FIFTH move is encoded and is NOT drawn: the second C3-C4 electron remaining on C3 as the new radical site, which the bookkeeping requires (the arrow-check would otherwise report a half-order shortfall) and which the drawn radical dot on the product's CH2 confirms. PRODUCT FORM (convention C): the ion is stored exactly as drawn -- the DISTONIC form .CH2-C(CH3)=O(+)H, with the radical dot printed on the terminal CH2 and 'H-O+' on the carbonyl -- not the closed-shell acetone enol tautomer. Its neutral partner is isoprene (2-methyl-1,3-butadiene), drawn as CH2=C(CH3)-CH=CH2 in the same left-to-right layout as the precursor, which is what confirms the atom mapping of the hydrocarbon half. THE 'or' ON THE PAGE: these four arcs produce THIS charge distribution (charge on the oxygen fragment). The alternative the page offers after 'or' -- charge on the hydrocarbon, C5H8+. -- is IMS9-EQ9.28b, and it has no arrow set of its own. MEASUREMENTS (convention F): equation 9.28 prints NO m/z value and no percentage anywhere -- not on the molecular ion, not on the intermediate, not on either product. Every mass here is CURATOR-COMPUTED from the instantiated structures (RDKit ExactMolWt, which already applies the formal charge -- do not subtract the electron again). Both product ions are marked detected=true with status 'proposed' on the prose alone ('the C3H6O+. and C5H8+. rearrangement ions are observed in fair abundance'), following the IMS8-EQ8.60 / IMS8-EQ8.81 precedent. NO relative_intensity is recorded: Figure 9.10 (printed p247, PDF 258) is the 70 eV spectrum of this very compound and does carry abundances, but it is a different page and this scheme prints no number, exactly the situation IMS9-EQ9.26d faced with Figure 9.9. The prose's other numbers belong to channels eq 9.28 does NOT draw -- 'the m/z 69 ion, which would be the product of allylic cleavage, is more abundant than the alpha-cleavage m/z 83 ion' -- so no records were invented for them; that sentence is also the book's evidence that the isomerization encoded here has NOT occurred in all M+.."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 126.1039, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_58", "species_id": "acetone_enol_ion_mz58", "step_id": "step_mclafferty_concerted", "observed_mz": 58.0413, "relative_intensity": null, "hydrogen_shift": 1, "isotope_offset": 0, "status": "proposed", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "manual_from_scan", "review_status": "unreviewed", "created_at": "2026-08-10T00:00:00Z", "modified_at": "2026-08-10T00:00:00Z"}}
